US08754103B2
Alternative Step 2. 6-(4-(trifluoromethoxy)phenyl)-[1,2,4]triazolo[4,3-a]pyridine
In a 5 mL vial 6-bromo-[1,2,4]triazolo[4,3-a]pyridine (93 mg), 4-trifluoromethoxyphenylboronic acid (115 mg), and potassium carbonate (187 mg) were suspended in DMF (2 mL) that was previously degassed with nitrogen. Tetrakis(triphenylphosphine) palladium (20 mg) was added and the reaction mixture was heated in a microwave reactor at 150° C. for 30 min, filtered, and concentrated. The residue was subjected to gradient chromatography (MeOH/dichloromethane) to produce white powder, 56.4 mg (43% yield).

reactant | 6-bromo-[1,2,4]triazolo[4,3-a]pyridine | 5 mL, 93 mg | BrC=1C=CC=2N(C1)C=NN2 | C6H4BrN3
reactant | 4-trifluoromethoxyphenylboronic acid | 115 mg | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | potassium carbonate | 187 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 6-(4-(trifluoromethoxy)phenyl)-[1,2,4]triazolo[4,3-a]pyridine | 43% yield | FC(OC1=CC=C(C=C1)C=1C=CC=2N(C1)C=NN2)(F)F | C13H8F3N3O
